US06906075B2
A solution of 0.9 g (1.7 mmole) of compound D was treated with 10 mL of butyl amine in 50 mL of acetonitrile at room temperature for 2 hr. The resulting solution was concentrated and partitioned between ethyl acetate and 1N NaOH. The organic layer was dried over anhydrous Na2SO4 and concentrated to yield 0.55 g of Butyl-[1-(2-piperidin-1-ylmethyl-benzyl)-1H-benzoimidazol-2-ylmethyl]-amine. 1H NMR (300 MHz, CDCl3) 7.8 (d, 1H), 7.2 (m, 5H), 7.05 (d, 1H), 6.4 (d, 1H), 5.8 (s, 2H), 4.0 (s, 2H), 3.6 (s, 2H), 2.6 (t, 2H), 1.2-1.6 (m, 14H), 0.8 (t, 3H). A quantity of 0.1 mL of a 0.2 M solution of Butyl-[1-(2-piperidin-1-ylmethyl-benzyl)-1H-benzoimidazol-2-ylmethyl]-amine in toluene is treated with 0.15 mL of a 0.2 M solution of 2,3-Difluoro-benzoyl chloride in dichloroethane at room temperature for 1 hr. The resulting mixture was chromatographed on SiO2 with ethyl acetate to yield 9 mg of N-Butyl-2,3-difluoro-N-[1-(2-piperidin-1-ylmethyl-benzyl)-1H-benzoimidazol-2-ylmethyl]-benzamide. LCMS MF=C32H36F2N4O MW=530.6 found 531. B. N-Butyl-2,3-difluoro-N-[1-(4-piperidin-1-yl-but-2-Enyl)-1H-benzoimidazol-2-ylmethyl]-benzamide

reactant | Butyl-[1-(2-piperidin-1-ylmethyl-benzyl)-1H-benzoimidazol-2-ylmethyl]-amine | C(CCC)NCC1=NC2=C(N1CC1=C(C=CC=C1)CN1CCCCC1)C=CC=C2 | C25H34N4
reactant | 2,3-Difluoro-benzoyl chloride | FC1=C(C(=O)Cl)C=CC=C1F | C7H3ClF2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
solvent | dichloroethane | ClC(C)Cl | C2H4Cl2
product | N-Butyl-2,3-difluoro-N-[1-(2-piperidin-1-ylmethyl-benzyl)-1H-benzoimidazol-2-ylmethyl]-benzamide | 9 mg | C(CCC)N(C(C1=C(C(=CC=C1)F)F)=O)CC1=NC2=C(N1CC1=C(C=CC=C1)CN1CCCCC1)C=CC=C2 | C32H36F2N4O
